US05439917
3-Methyl-2-(p-methylphenyl)-7-phenacylpyrrolo[2,3-b]pyridine
The title compound was prepared from 3-methyl-2-(p-methylphenyl)-pyrrolo[2,3-b]pyridine and phenacyl bromide on a 3 mmol scale according to the procedure described in example 8 yielding 1.21 g (96%).

reactant | 3-methyl-2-(p-methylphenyl)-pyrrolo[2,3-b]pyridine | CC1=C(NC2=NC=CC=C21)C2=CC=C(C=C2)C | C15H14N2
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
product | 3-Methyl-2-(p-methylphenyl)-7-phenacylpyrrolo[2,3-b]pyridine | CC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C2=CC=C(C=C2)C | C23H20N2O
